US05015678
Bis[1-(2-[1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl]- ethoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Isophthalate
The title compound is prepared in a 31% yield as a colorless glass from bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) isophthalate and 1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate according to the general procedure of Example 12. The reaction is reduced from five days to 48 hours in this case.

reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) isophthalate | C(C1=CC(C(=O)OC2CC(N(C(C2)(C)C)O)(C)C)=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C26H40N2O6
reactant | 1-methoxy-2,2,6,6-tetramethylpiperidin-4-yl acrylate | C(C=C)(=O)OC1CC(N(C(C1)(C)C)OC)(C)C | C13H23NO3
product | Bis[1-(2-[1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxycarbonyl]- ethoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Isophthalate | 31% yield | C(C1=CC(C(=O)OC2CC(N(C(C2)(C)C)OCCC(=O)OC2CC(N(C(C2)(C)C)OC)(C)C)(C)C)=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC1CC(N(C(C1)(C)C)OC)(C)C)(C)C | C52H86N4O12
